US06440995B1
(R)-{1-[2-(4-Methoxy-phenyl)-quinolin-4-yl]-pyrrolidin-2-yl}-methanol hydrochloride
The title compound, m.p. 148-160° C., [α]D20=−62.6° (c=0.51, methanol) and MS: m/e=334 (M+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-quinoline and D-prolinol.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | D-prolinol | N1[C@@H](CO)CCC1 | C5H11NO
solvent | methanol | CO | CH4O
product | (R)-{1-[2-(4-Methoxy-phenyl)-quinolin-4-yl]-pyrrolidin-2-yl}-methanol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)N1[C@H](CCC1)CO | InChI=1S/C21H22N2O2.ClH/c1-25-17-10-8-15(9-11-17)20-13-21(23-12-4-5-16(23)14-24)18-6-2-3-7-19(18)22-20;/h2-3,6-11,13,16,24H,4-5,12,14H2,1H3;1H/t16-;/m1./s1
